US05216018
Sorboyl chloride (3.53 g) was added to a mixture of 4.0 g of N-allylphenethylamine, 25 mL of methylene chloride and 25 mL of 15% aqueous sodium hydroxide, keeping the temperatue below 15°. The mixture was stirred in an ice bath for 1 hour, then at room temperature overnight. The aqueous layer was extracted several times with toluene and the combined organic phases were washed successively with 5% hydrochloric acid, water, and 10% sodium carbonate solution. Removal of the solvents gave 6.37 g of N-allyl-N-phenethylsorbamide. This product was heated under reflux in 50 mL of p-xylene for 10 hours. Removal of the solvent gave 6-methyl-3a,4,5,7a-tetrahydroisoindolin-1-one as a mixture of isomers still containing about 10% of the uncyclized starting material.

reactant | Sorboyl chloride | 3.53 g | C(\C=C\C=C\C)(=O)Cl | C6H7ClO
reactant | N-allylphenethylamine | 4.0 g | C(C=C)NCCC1=CC=CC=C1 | C11H15N
reactant | sodium hydroxide | 25 mL | [OH-].[Na+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | N-allyl-N-phenethylsorbamide | 6.37 g | C(C=C)N(C(\C=C\C=C\C)=O)CCC1=CC=CC=C1 | C17H21NO
